US08378104B2
Step D: 5-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thieno[3,2-c]pyridin-6(5H)-one
A solution of 3-bromo-5-methylthieno[3,2-c]pyridin-6(5H)-one (80 mg, 0.33 mmol), bis(pinacolato)diboron (125 mg, 0.492 mmol), potassium acetate (64.3 mg, 0.655 mmol), and 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) dichloride dichloromethane complex (13.4 mg, 0.0164 mmol) in 1,4-Dioxane (1.6 mL) was heated to 85° C. for 4 h. The reaction was cooled to room temperature and concentrated. Purification by ISCO chromatography (0 to 50% acetone:heptane) afforded 26 mg (27%) of the title compound as a white solid. 1H NMR (400 MHz, CDCl3): δ 8.35 (br. s., 1 H), 7.54-7.69 (m, 1 H), 6.93-7.19 (m, 1 H), 3.69-3.91 (m, 3 H), 1.36 (s, 12H); MS (ESI): 292.25 [M+H]+; HPLC tR=3.19 min (ZQ3, polar—4 min).

reactant | 3-bromo-5-methylthieno[3,2-c]pyridin-6(5H)-one | 0.33 mmol, 80 mg | BrC1=CSC=2C1=CN(C(C2)=O)C | C8H6BrNOS
reactant | bis(pinacolato)diboron | 0.492 mmol, 125 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.655 mmol, 64.3 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-Dioxane | 1.6 mL | O1CCOCC1 | C4H8O2
product | 5-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thieno[3,2-c]pyridin-6(5H)-one | 26 mg, 27% | CN1C=C2C(=CC1=O)SC=C2B2OC(C(O2)(C)C)(C)C | C14H18BNO3S
